US08067621B2
Step 5: 3-[2-(2-Benzyloxy-ethyl)-[1, 3]dioxolan-2-ylmethyl]-4-(4-chloro-benzene-sulfonyl)-5,8-difluoro-chroman
4-Benzyloxy-1-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-butan-2-one (10 g, 19.2 mmole), ethylene glycol (20 ml) and toluene sulfonic acid (1 g) were dissolved in 300 ml toluene. The reaction was refluxed for four hours with a Dean-Stark trap. The reaction was cooled to room temperature and 200 ml water and 200 ml EtOAc were added. The organic layer washed with brine (2×50 ml), dried over Na2SO4 and concentrated. The residue was purified by column chromatography (EtOAc/hexane from 0/100 to 50/50 in 55 minute). Yield: 6.3 g, 58%. 1H NMR (CDCl3 400 MHz δ 7.74 (d, J=8.1 Hz, 2H), 7.51 (d, J=8.8 Hz, 2H), 7.20-7.39 (m, 5H), 7.02 (m, 1H), 6.42 (m, 1H), 4.89 (dd, J=11.0 and 2.9 Hz, 1H), 4.84 (s, 1H), 4.40 (d, J=2.0 Hz, 2H), 4.21 (d, J=11.7 Hz, 1H), 3.85 (m, 4H), 3.46 (t, J=5.9 Hz, 2H), 3.03 (d, J=8.1 Hz, 1H), 1.75-1.90 (m, 3H), 1.54-1.61 (m, 1H).

reactant | 4-Benzyloxy-1-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-butan-2-one | 19.2 mmole, 10 g | C(C1=CC=CC=C1)OCCC(CC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F)=O | C26H23ClF2O5S
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
reactant | toluene sulfonic acid | 1 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 200 ml | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-(2-Benzyloxy-ethyl)-[1, 3]dioxolan-2-ylmethyl]-4-(4-chloro-benzene-sulfonyl)-5,8-difluoro-chroman | C(C1=CC=CC=C1)OCCC1(OCCO1)CC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F | C28H27ClF2O6S
